2177-03-02 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2177-3-1**] 04:00 PM
 NASAL SWAB - At [**2177-3-1**] 06:28 PM
   - Hct: 28.2 -> 24.7 -> (1.5 RBC) -> 26.8 -> (2 RBC) -> 30.5 -> 32.1
   - Upper endoscopy revealed large, friable, gastric mass, unamenable to
   endoscopic intervention
   - Surgery consulted for possibility of resection of gastric mass,
   evaluation of liver metastases
   - From surgery note: "CT read with [**Hospital1 1**] ED attending: 1) gastric mass
   seen in body. 2) 4 large lesions seen in liver - largest approximately
   15 cm in left lobe of liver. Largest lesion has some element of
   necrosis. Diff dx includes metastases first and abscess second. 3) no
   obvious bone mets"
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-3-1**] 04:00 PM
   Fentanyl - [**2177-3-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-2**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 50 (50 - 81) bpm
   BP: 103/73(79) {89/50(59) - 145/77(115)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  2,895 mL
                                                                    255 mL
   PO:
             TF:
   IVF:
                                                                    745 mL
                                                                    255 mL
   Blood products:
                                                                  1,150 mL
   Total out:
                                                                    925 mL
                                                                    250 mL
   Urine:
                                                                    825 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   280 K/uL
   10.5 g/dL
   94 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   32.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2177-3-1**]  01:55 PM
                             [**2177-3-1**]  06:30 PM
                             [**2177-3-1**]  11:45 PM
                             [**2177-3-2**]  03:00 AM
   WBC
   7.8
   Hct
   24.7
   26.8
   30.5
   32.1
   Plt
   280
   Cr
   0.9
   Glucose
   94
   Other labs: Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: [**3-1**] CXR:  No acute cardiopulmonary process. Please note that
   CT is more sensitive in detecting small pulmonary nodules.
   [**3-1**] EGD: Large subepithelial mass with three deep cratered ulcers were
   noted in the gastric cardia - these ulcers are not amenable to
   endoscopic therapy. Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   65 y/o M with recently diagnosed gastric leiomyosarcoma, p/w melanotic
   stools and anemia
   .
   # Melena/Anemia: EGD revealed no active bleeding but identified large,
   ulcerated gastric mass, likely culprit for ongoing blood loss, given
   guaiac positive melanotic stools. Responding moderately well to RBC
   transfusion (24.7 -> 32.1 with 3.5 units RBCs), from reported baseline
   Hct of ~40. Given friable nature of mass, endoscopic intervention was
   not pursued, as surgical resection will likely be necessary.
   - Q4 hr Hcts
 can space out to q6hr today
   - C/w IV PPI
   - NPO
   - Start Sulcralfate QID to maintain gastric barrier protection from
   re-activation of GIB
   - Maintenance IVF
   - Transfuse RBCs for Hct > 30
   - Maintain active type/screen, adeuqate peripheral IV access
   - Holding home terazosin for now
   .
   # Gastric cancer with suspected liver metastases: Definitive tissue
   diagnosis has not been obtained. Patient scheduled to undergo go EUS on
   [**3-3**], unclear if this was also going to involve further biopsies.
   Patient was told that it may be leiomyosarcoma, but this has not been
   confirmed. Patient has not yet started local or systemic treatment.
   - Further plans for surgical intervention per general surgery, likely
   Monday/Tuesday
   .
   # Upper backpain: Unclear etiology, has been ongoing X2 weeks.
   Differential includes musculoskeletal vs. malignancy metastasis vs.
   pancreatitis vs. ulcer perforation vs. peritoneal irritation. Responded
   well to Fentanyl yesterday during endoscopy
   - Fentanyl 25mcg
 75/100mcg this morning to establish appropriate pain
   regimen; then continue Fentanyl dose q4h
   - Zofran 4mg IV q8h prior to narcotics to avoid emesis in patient with
   known recent GI bleed
   - Continue to monitor neurological exam
   - Consider imaging to assess possible metastasis and aide in staging
   .
   # Dyspnea: Lungs sound clear and CXR appears without infiltrate,
   effusion, or atelectasis. Appears closely tied to fatigue. No fevers or
   leukocytosis to suggest pneumonia. No myalgias or other symptoms to
   suggest viral URI. Satting fine on room air upon arrival. Low suspicion
   for concurrent intrapulmonary process.
   - Monitor blood loss as above
   - Recheck CXR if respiratory status worsens
   - Monitor O2 sats
   .
   # Elevated LFT's: Per patient, there is known liver involvement of
   cancer. Outside hospital imaging now available in centricity, and large
   liver mass clearly visible. LFT's mildly elevated on arrival.
   - Will trend LFT's for new abdominal pain, nausea, jaundice, or other
   concerning symptoms
   .
   # History of IgA deficiency: Per blood bank, if patient has not
   anaphylaxed to transfusions that he has already had, it is safe to
   continue transfusing him with packed RBCs. Washed RBCs not necessary.
   .
   # FEN: NPO. NS @ 100 cc/hr. Replete electrolytes PRN
   # Prophylaxis: Pneumoboots/ambulation, PPI
   # Access: 20g PIV x1, 18g PIV x1
   # Communication: Patient. Wife [**Doctor First Name 2038**] is HCP
   # Code: Full (discussed with patient)
   # Disposition: Likely call out to floor today, as hemodynamics stable
   and Hct responding to transfusions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-3-1**] 01:00 PM
   20 Gauge - [**2177-3-1**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-03-02 09:05:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2177-3-1**] 04:00 PM
 NASAL SWAB - At [**2177-3-1**] 06:28 PM
   EGD by GI: "Large subepithelial mass with three deep cratered ulcers
   were noted in the gastric cardia - these ulcers are not amenable to
   endoscopic therapy. Otherwise normal EGD to second part of the
   duodenum"
   Hct has increased and stable for some measurements
   Back pain this morning
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-3-1**] 04:00 PM
   Fentanyl - [**2177-3-1**] 04:00 PM
   Other medications:
   PPI 40 mg IV q12h; finasteride
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2177-3-2**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 56 (48 - 81) bpm
   BP: 109/69(79) {89/50(59) - 145/77(115)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  2,895 mL
                                                                    255 mL
   PO:
             TF:
   IVF:
                                                                    745 mL
                                                                    255 mL
   Blood products:
                                                                  1,150 mL
   Total out:
                                                                    925 mL
                                                                    525 mL
   Urine:
                                                                    825 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,970 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, some epigastric tenderness; back pain increases with
   abdominal palpation
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, detailed strength and
   light touch exam normal
   Labs / Radiology
   10.5 g/dL
   280 K/uL
   94 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   31.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2177-3-1**]  01:55 PM
                             [**2177-3-1**]  06:30 PM
                             [**2177-3-1**]  11:45 PM
                             [**2177-3-2**]  03:00 AM
                             [**2177-3-2**]  07:33 AM
   WBC
   7.8
   Hct
   24.7
   26.8
   30.5
   32.1
   31.3
   Plt
   280
   Cr
   0.9
   Glucose
   94
   Other labs: Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR without opacities
   Assessment and Plan
   65-year-old man with GI bleed in setting of presumptive gastric
   malignancy.
   GI bleed
   Quiescent at present, but high risk to rebleed
   Surgical consult; likely will need anatomic control
   PPI intravenous twice a day
   Add sucralfate
   Keep typed and crossed
   Has adequate IV access for now
   IgA deficiency
   consult blood bank; presumptive washed products
   Back pain
   DDx is broad.  Suspect that this relates to tumor, from either
   pancreatitis (doubt) or mechanical impingement of nervous plexus.
   Doubt perforation into pancreatic bed.  Spinal met is possible, though
   there is no evidence of spinal cord impingement by detailed exam.  Will
   discuss with surgical team and provide pain control.  Will likely need
   full oncologic staging.
   Other issues as per ICU team note today
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-3-1**] 01:00 PM
   20 Gauge - [**2177-3-1**] 10:41 PM
   Prophylaxis:
   DVT: Boots and out of bed
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   discussed with patient; all questions answered
   Code status: Full code
   Disposition :ICU given high risk of rebleeding
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Consult transfusion med for assistance with management of possible IgA
   deficiency, since he is likely to need further transfusions.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2177-3-2**] 12:06 ------

2177-03-03 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Hospital 1534**] Hospital Surgical Path closed on Sunday, need to call Monday
   at ([**Telephone/Fax (1) 11118**] to follow-up prior biopsy, reportedly
   nondiagnostic. Micro at [**Location (un) 1534**], H.pylori negative
   - GI recs: No EUS given surgical plans
   - Surgery recs: Likely OR tomorrow (w/ [**Doctor Last Name 412**]?)
   - Hct stable 31, 32
   - Upper back pain (c/f mets) controlled w/ Fentanyl
   - Heme/Onc: CEA (nl), AFP (nl-ish), CA19-9 (pending), anemia workup
   (normal iron, B12/folate, TSH)
   - Started sulfcrafate, amylase/lipase nl
   - Washed blood products given IgA def (<5)? Transfusion will see pt in
   AM and decide
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-3-2**] 09:43 PM
   Fentanyl - [**2177-3-3**] 12:00 AM
   Carafate (Sucralfate) - [**2177-3-3**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 49 (46 - 70) bpm
   BP: 112/56(68) {93/56(65) - 119/82(90)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  1,592 mL
                                                                    688 mL
   PO:
             TF:
   IVF:
                                                                  1,592 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    600 mL
   Urine:
                                                                  2,200 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -608 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   280 K/uL
   10.5 g/dL
   94 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   33.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2177-3-1**]  01:55 PM
                             [**2177-3-1**]  06:30 PM
                             [**2177-3-1**]  11:45 PM
                             [**2177-3-2**]  03:00 AM
                             [**2177-3-2**]  07:33 AM
                             [**2177-3-2**]  03:59 PM
                             [**2177-3-2**]  09:37 PM
   WBC
   7.8
   Hct
   24.7
   26.8
   30.5
   32.1
   31.3
   32.2
   33.3
   Plt
   280
   Cr
   0.9
   Glucose
   94
   Other labs: Amylase / Lipase:46/19, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   65 y/o M with recently diagnosed gastric leiomyosarcoma, p/w melanotic
   stools and anemia
   .
   # Melena/Anemia: EGD revealed no active bleeding but identified large,
   ulcerated gastric mass, likely culprit for ongoing blood loss, given
   guaiac positive melanotic stools. Responded moderately well to RBC
   transfusion (24.7 -> 32.1 with 3.5 units RBCs), from reported baseline
   Hct of ~40. Hematocrit has remained stable X24 hours. Given friable
   nature of mass, endoscopic intervention was not pursued, as surgical
   resection will likely be necessary.
   - Q6h Hct checks today
   - C/w IV PPI, sulcralfate
   - NPO with maintenance IVF
   - Transfuse RBCs for Hct > 30
   - Maintain active type/screen, 2 units cross matched, adequate
   peripheral IV access
   - Holding home terazosin for now
   .
   # Gastric cancer with suspected liver metastases: Definitive tissue
   diagnosis has not been obtained. Patient scheduled to undergo go EUS on
   [**3-3**], unclear if this was also going to involve further biopsies.
   Patient was told that it may be leiomyosarcoma, but this has not been
   confirmed. Patient has not yet started local or systemic treatment.
   - Further plans for surgical intervention per general surgery, likely
   later this week given unclear scope of surgery. [**Month (only) 11**] need liver
   resection as well, etc.
   .
   # Upper backpain: Unclear etiology, has been ongoing X2 weeks.
   Differential includes musculoskeletal vs. malignancy metastasis vs.
   pancreatitis vs. ulcer perforation vs. peritoneal irritation. Responded
   well to Fentanyl yesterday during endoscopy and yesterday.  Pain-free
   for the first time in 2 weeks per patient after 100mcg Fentanyl
   yesterday
   - Continue current pain medication regimen
   - Zofran 4mg IV q8h prior to narcotics to avoid emesis in patient with
   known recent GI bleed
   - Continue to monitor neurological exam
   - Consider imaging to assess possible metastasis and aide in staging
   .
   # History of IgA deficiency: Per blood bank, if patient has not
   anaphylaxed to transfusions that he has already had, it is safe to
   continue transfusing him with packed RBCs. Washed RBCs likely not
   necessary
   - Tranfusion Team will see patient this morning
   .
   # Dyspnea: Lungs sound clear and CXR appears without infiltrate,
   effusion, or atelectasis. Appears closely tied to fatigue =/- anxiety.
   No fevers or leukocytosis to suggest pneumonia. No myalgias or other
   symptoms to suggest viral URI. Satting fine on room air upon arrival.
   Low suspicion for concurrent intrapulmonary process.
   - Monitor blood loss per above
   - Recheck CXR if respiratory status worsens
   - Monitor O2 sats
   .
   # Elevated LFT's: Per patient, there is known liver involvement of
   cancer. Outside hospital imaging available in centricity, and large
   liver masses clearly visible. LFT's mildly elevated on arrival.
   - Will trend LFT's for new abdominal pain, nausea, jaundice, or other
   concerning symptoms
   .
   .
   # FEN: NPO. NS @ 100 cc/hr. Replete electrolytes PRN
   # Prophylaxis: Pneumoboots/ambulation, PPI
   # Access: 20g PIV x1, 18g PIV x1
   # Communication: Patient. Wife [**Doctor First Name 2038**] is HCP
   # Code: Full (discussed with patient)
   # Disposition: Likely call out to floor today, as hemodynamics stable
   and Hct responding to transfusions
 PROSTATIC HYPERTROPHY, BENIGN (BPH)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 .H/O CANCER (MALIGNANT NEOPLASM), STOMACH
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   IgA deficiency
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-3-1**] 01:00 PM
   20 Gauge - [**2177-3-1**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-03-03 11:57:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING ADDENDUM
   Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No further melena
   Hct stable
   Still with epigastric and back pain
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-3-2**] 09:43 PM
   Fentanyl - [**2177-3-3**] 12:00 AM
   Carafate (Sucralfate) - [**2177-3-3**] 05:46 AM
   Other medications:
   reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: Abdominal pain
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: [**3-13**] Mild
   Flowsheet Data as of  [**2177-3-3**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 50 (46 - 82) bpm
   BP: 110/65(75) {93/56(65) - 119/82(90)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  1,592 mL
                                                                    688 mL
   PO:
             TF:
   IVF:
                                                                  1,592 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    750 mL
   Urine:
                                                                  2,200 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -608 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   278 K/uL
   102 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.0 mEq/L
   9 mg/dL
   108 mEq/L
   142 mEq/L
   33.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2177-3-1**]  01:55 PM
                             [**2177-3-1**]  06:30 PM
                             [**2177-3-1**]  11:45 PM
                             [**2177-3-2**]  03:00 AM
                             [**2177-3-2**]  07:33 AM
                             [**2177-3-2**]  03:59 PM
                             [**2177-3-2**]  09:37 PM
                             [**2177-3-3**]  07:50 AM
   WBC
   7.8
   7.4
   Hct
   24.7
   26.8
   30.5
   32.1
   31.3
   32.2
   33.3
   33.3
   Plt
   280
   278
   Cr
   0.9
   0.9
   Glucose
   94
   102
   Other labs: PT / PTT / INR:12.1/26.6/1.0, Amylase / Lipase:46/19,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   65-year-old man with GI bleed in setting of presumptive gastric
   malignancy.  Now without clinical bleeding for >24 hours.
   GI bleed and stomach malignancy with liver mets
   Remains quiescent on PPI.
   PPI intravenous twice a day
   Sucralfate
   Keep typed and crossed, with IV access.
   Discussed with Dr. [**Last Name (STitle) 412**], who will review films with
   multidisciplinary team to plan best approach
   IgA deficiency
   Appreciate blood bank
s help, who recommend against washed products
   Back pain
   DDx remains broad.  Suspect that this relates to tumor, from either
   pancreatitis (doubt) or mechanical impingement of nervous plexus.
   Doubt perforation into pancreatic bed.  Spinal met is possible, though
   there is no evidence of spinal cord impingement by detailed exam.
   Will discuss with surgical and oncology teams about staging and
   imaging, which should probably include spine.
   Other issues as per ICU team note today
   To floor on Dr. [**Last Name (STitle) 412**]
s service.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-3-1**] 01:00 PM
   20 Gauge - [**2177-3-1**] 10:41 PM
   Prophylaxis:
   DVT: Boots(ambulation)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed with patient. All questions
   answered.
   Code status: Full code
   Disposition :Transfer to floor